US07884202B2
0.17 g (1.0 mmol) of 6-carboxyuracil and 0.058 g (0.3 mmol) of ferrocene were weighed and placed in a 50 ml two-neck flask equipped with a magnetic rotor and the atmosphere in the flask was replaced with argon. The following materials were added thereinto: 1.8 ml of dimethyl sulfoxide, 2.0 ml of a 1N dimethyl sulfoxide solution of sulfuric acid, 1.0 ml of a 3.0 mol/l dimethyl sulfoxide solution of trifluoromethyl iodide and 0.2 ml of a 30% hydrogen peroxide aqueous solution. The mixture was stirred at 60 to 70° C. for 20 minutes and then the resulting solution was cooled to room temperature. Formation of 6-carboxy-5-trifluoromethyluracil (19F-NMR yield: 95%) was confirmed by 19F-NMR with 2,2,2-trifluoroethanol as an internal standard. 6-Carboxy-5-trifluoromethyluracil was obtained (0.076 g, yield: 34%) by column chromatography.

reactant | 6-carboxyuracil | 1.0 mmol, 0.17 g | C(=O)(O)C1=CC(NC(N1)=O)=O | C5H4N2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | ferrocene | 0.3 mmol, 0.058 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | dimethyl sulfoxide | 3.0 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1N | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.8 ml | CS(=O)C | C2H6OS
product | 6-carboxy-5-trifluoromethyluracil | yield: 95% | C(=O)(O)C1=C(C(NC(N1)=O)=O)C(F)(F)F | C6H3F3N2O4
